US08871753B2
Step F: 2-[2-(5-Aminopyridin-3-yl)ethyl]-N(4)-(2-chloro-5-fluoropyrimidin-4-yl)benzene-1,4-diamine trihydrochloride
Into the reaction flask was added tert-butyl [5-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate (0.050 g, 0.089 mmol), methanol (0.6 mL), and 4.0 M of hydrogen chloride in 1,4-dioxane (1 mL). The mixture was stirred at rt overnight and concentrated under vacuum to give the desired product (10 mg, 95%). LCMS for C17H17ClFN6 (M+H)+: m/z=359.0.

reactant | tert-butyl [5-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate | 0.089 mmol, 0.050 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)NC1=NC(=NC=C1F)Cl)CCC=1C=C(C=NC1)NC(OC(C)(C)C)=O | C27H32ClFN6O4
reactant | methanol | 0.6 mL | CO | CH4O
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(5-Aminopyridin-3-yl)ethyl]-N(4)-(2-chloro-5-fluoropyrimidin-4-yl)benzene-1,4-diamine trihydrochloride | 10 mg, 95% | Cl.Cl.Cl.NC=1C=C(C=NC1)CCC1=C(C=CC(=C1)NC1=NC(=NC=C1F)Cl)N | InChI=1S/C17H16ClFN6.3ClH/c18-17-23-9-14(19)16(25-17)24-13-3-4-15(21)11(6-13)2-1-10-5-12(20)8-22-7-10;;;/h3-9H,1-2,20-21H2,(H,23,24,25);3*1H
